US08039460B2
Step B: Benzyl 2-methoxy-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate
Sodium carbonate (2.0 M in water; 4.0 mL, 8.09 mmol) was added to a solution of benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate (1.26 g, 3.45 mmol) and (2-methoxypyridin-3-yl)boronic acid (0.58 g, 3.79 mmol) in N,N-dimethylformamide (12 mL). Dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.25 g, 0.345 mmol) was added and the mixture was heated to 70° C. After 2 h, the mixture was cooled to ambient temperature and water was added. The mixture was extracted with ethyl acetate and the combined organic extracts were dried over magnesium sulfate and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) to give the title compound (0.815 g). MS 325.2 (M+1).

reactant | Sodium carbonate | 8.09 mmol, 2.0 M, 4.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 3.45 mmol, 1.26 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H14F3NO5S
reactant | (2-methoxypyridin-3-yl)boronic acid | 3.79 mmol, 0.58 g | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
catalyst | Dichloro [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.345 mmol, 0.25 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | Benzyl 2-methoxy-3′,6′-dihydro-3,4′-bipyridine-1′(2′H)-carboxylate | 0.815 g | COC1=NC=CC=C1C=1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H20N2O3
